US07517873B2
To a solution of 1.1 g (0.003 mole) of 3-[benzyl-(2-chloro-5-nitro-pyrimidin-4-yl)-amino]-propanoic acid ethyl ester (IV-22) in 20 mL of ethanol was added 1.7 g (0.0075 mole) of stannous chloride dehydrate and 0.5 mL of hydrochloric acid. The mixture was heated at 60 degrees for 2 hrs. The solvent was evaporated under reduced pressure. The residue was taken up in 50 mL of water and extracted three times with 50 mL of ethyl acetate. The combined organic layers were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (100:0-95:5) gave 0.16 g of 9-benzyl-2-chloro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-22) as a white solid.

reactant | 3-[benzyl-(2-chloro-5-nitro-pyrimidin-4-yl)-amino]-propanoic acid ethyl ester | 0.003 mole, 1.1 g | C(C)OC(CCN(C1=NC(=NC=C1[N+](=O)[O-])Cl)CC1=CC=CC=C1)=O | C16H17ClN4O4
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 9-benzyl-2-chloro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.16 g | C(C1=CC=CC=C1)N1C2=C(NC(CC1)=O)C=NC(=N2)Cl | C14H13ClN4O
